US07902203B2
6-phenyl-2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione
Methyl-3-amino-5-phenylthiophene-2-carboxylate (0.25 g, 1.07 mmol) in water (6 mL) was reacted with potassium hydroxide (0.12 g, 2.14 mmol) at 90° C. for 24 hours. The reaction was cooled to 0° C. and phosgene (1.9M in toluene, 0.70 mL, 1.40 mmol) was added dropwise. After stirring at room temperature for 1 hour, the resulting solid was collected by filtration, washed with excess water and dried to give the title compound as a tan solid (0.175 g, 65%).

reactant | Methyl-3-amino-5-phenylthiophene-2-carboxylate | 1.07 mmol, 0.25 g | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | potassium hydroxide | 2.14 mmol, 0.12 g | [OH-].[K+]
reactant | phosgene | 1.40 mmol, 1.9M, 0.70 mL | C(=O)(Cl)Cl | CCl2O
solvent | water | 6 mL | O | H2O
product | 6-phenyl-2H-thieno[3,2-d][1,3]oxazine-2,4(1H)-dione | 0.175 g, 65% | C1(=CC=CC=C1)C1=CC=2NC(OC(C2S1)=O)=O | C12H7NO3S
